US08084448B2
B. 5-{2-Benzyloxy-4-[3-(1,1-dioxotetrahydrothiophen-2-yl)-prop-1-ynyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 2-prop-2-ynyl-tetrahydrothiophene 1,1-dioxide (53 mg, 0.34 mmol) in 1 mL glyme/water (9:1) is added Pd(dppf)Cl2.CH2Cl2 (14 mg), a solution of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (164 mg, 0.37 mmol) in 1 mL glyme/water (9:1), triethylamine (68 mg, 0.67 mmol) and CuCl (13 mg, 0.13 mmol). The mixture is heated at 120° C. in a microwave apparatus for 5 min then is poured into EtOAc. The mixture is washed with 1N HCl and the organic phase is dried over magnesium sulfate. The solvent is removed under reduced pressure to give the title compound which is used directly in the next step.

reactant | 2-prop-2-ynyl-tetrahydrothiophene 1,1-dioxide | 0.34 mmol, 53 mg | C(C#C)C1S(CCC1)(=O)=O | C7H10O2S
reactant | CH2Cl2 | 14 mg | C(Cl)Cl | CH2Cl2
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.37 mmol, 164 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | triethylamine | 0.67 mmol, 68 mg | C(C)N(CC)CC | C6H15N
solvent | glyme water | 1 mL | C(OC)COC.O
solvent | glyme water | 1 mL | C(OC)COC.O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | CuCl | 0.13 mmol, 13 mg | Cl[Cu]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-{2-Benzyloxy-4-[3-(1,1-dioxotetrahydrothiophen-2-yl)-prop-1-ynyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C#CCC1S(CCC1)(=O)=O)N1CC(NS1(=O)=O)=O | C22H22N2O6S2
